US04027027
A mixture of 27.6 g of 3-hydroxy-2-pyridinecarboxylic acid amide and 31 g of potassium carbonate in 600 ml of acetonitrile is heated to the boil for two hours, whilst stirring well. 22.2 g of chloroacetone are added dropwise to the resulting thick paste in the course of 30 minutes. The reaction mixture is stirred for 20 hours whilst boiling under reflux. The undissolved material is filtered off after cooling and the filtrate is evaporated under reduced pressure. The residue is stirred with water, whereupon unconverted 3-hydroxy-2-pyridinecarboxylic acid amide remains as an undissolved residue. The aqueous solution is evaporated under reduced pressure and the residue is extracted with methylene chloride. Evaporation of the organic solution under reduced pressure gives crude 3-(2-oxo-propyloxy)-2-pyridinecarboxylic acid amide, which melts at 135°-140° C. after crystallisation from ethanol.

reactant | 3-hydroxy-2-pyridinecarboxylic acid amide | 27.6 g | OC=1C(=NC=CC1)C(=O)N | C6H6N2O2
reactant | potassium carbonate | 31 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 22.2 g | ClCC(C)=O | C3H5ClO
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 3-(2-oxo-propyloxy)-2-pyridinecarboxylic acid amide | O=C(COC=1C(=NC=CC1)C(=O)N)C | C9H10N2O3
